US09422271B2
3-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-ethynylpyrimidin-2-yl)benzene sulfonamide (Compound 110)
BCl3 (1 M in CH2Cl2, 0.92 mL, 0.92 mmol, 5 equiv.) was added to a stirred solution of N-tert-butyl-3-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynylpyrimidin-2-yl)benzenesulfonamide (80 mg, 0.18 mmol, 1.0 equiv.) in CH2Cl2 (20 mL) at room temperature under nitrogen. The reaction mixture was stirred for 30 min and quenched with aq. NaHCO3 under an ice bath. The reaction mixture was extracted with ethylacetate and washed with water, brine, dried, filtered and evaporated. The crude product was crystallized with THF/isopropyl to afford the title compound 3-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-ethynylpyrimidin-2-yl)benzene sulfonamide (Compound 110) (40 mg, 57%). LC-MS (m/z)=380.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6): δ 0.82 (m, 2H), 0.96-0.98 (m, 2H), 1.94 (m, 1H), 4.90 (s, 1H), 6.47 (s, 1H), 7.45 (s, 2H), 7.74 (t, J=8.0 Hz, 1H), 7.97 (d, J=7.6 Hz, 1H), 8.49 (d, J=8.0 Hz, 1H), 8.62 (s, 1H), 8.70 (s, 1H), 8.82 (s, 1H), 12.31 (s, 1H).

reactant | BCl3 | 0.92 mmol, 1 M, 0.92 mL, 5 equiv. | B(Cl)(Cl)Cl | BCl3
reactant | N-tert-butyl-3-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynylpyrimidin-2-yl)benzenesulfonamide | 0.18 mmol, 80 mg, 1.0 equiv. | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=C(C(=N1)NC1=CC(=NN1)C1CC1)C#C | C22H24N6O2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-ethynylpyrimidin-2-yl)benzene sulfonamide | 40 mg, 57% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1C#C)C=1C=C(C=CC1)S(=O)(=O)N | C18H16N6O2S
